US07932247B2
1,1-dimethylethyl 4-[(3′-cyano-3-biphenylyl)methyl]-1-piperazinecarboxylate
A mixture of {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid (1 g), 3-bromobenzonitrile (0.56 g), potassium carbonate (1.725 g) and tetrakis triphenylphosphine palladium (180 mg) in dioxan/water (3:1, 4 mL) was sealed in a tube and heated at 150° C. for 15 minutes in a microwave vessel. After cooling to room temperature, the reaction mixture was then diluted with water (25 mL) and extracted with ethyl acetate (2×25 mL). The combined organic phases were dried (MgSO4) and concentrated under vacuum. The resulting crude residue was further purified by flash column chromatography on silica (100 g) to give the title compound (0.9 g) (purity ca 75%). LC/MS: m/z, 378 (M+H), 2.57 min.

reactant | {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid | 1 g | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)B(O)O | C16H25BN2O4
reactant | 3-bromobenzonitrile | 0.56 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | potassium carbonate | 1.725 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxan water | 4 mL | O1CCOCC1.O
solvent | water | 25 mL | O | H2O
product | 1,1-dimethylethyl 4-[(3′-cyano-3-biphenylyl)methyl]-1-piperazinecarboxylate | 0.9 g | C(#N)C=1C=C(C=CC1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C23H27N3O2
